US04801609
Step 1: 3-Acetylthio-2-(4-Phenylbenzyl)Propionyl Chloride:
To 3-acetylthio-2-(4-phenylbenzyl)propionic acid (3.39 g, 10.8 mmole) in toluene (25 ml) add 1% DMF in toluene (2 drops) and thionyl chloride (1.2 ml, 1.65 g, 13.8 mmoles) and stir the resulting solution at room temperature for 18 hours. Concentrate the reaction mixture in vacuo, dissolve the residue in toluene (100 ml) and concentrate the solution in vacuo to give the title compound, a light brown oil (3.37 g).

reactant | 3-acetylthio-2-(4-phenylbenzyl)propionic acid | 10.8 mmole, 3.39 g | C(C)(=O)SCC(C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C18H18O3S
reactant | DMF | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 13.8 mmoles, 1.2 ml, 1.65 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | toluene | 2 drops | C1(=CC=CC=C1)C | C7H8
product | 3-Acetylthio-2-(4-Phenylbenzyl)Propionyl Chloride | C(C)(=O)SCC(C(=O)Cl)CC1=CC=C(C=C1)C1=CC=CC=C1 | C18H17ClO2S
